US05277895
b) 10-[2-Hydroxy-3-(4-(carboxy)-phenoxy)-propyl]1,4,7-tris(carboxymethyl)-1,4,7,10-tetraazacyclododecane
10 g (28.87 mmol) of 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane (=DO3A) and 12.99 g (51.96 mmol) of 2,3-epoxy-1-[4-(2-ethoxycarbonyl)-phenoxy]-propane are added in 80 ml of dioxane/60 ml of water and adjusted to pH 13 with 6N potassium hydroxide solution. It is stirred for 12 hours at room temperature. Then, it is refluxed for 2 hours. It is adjusted to pH 7 with 5N hydrochloric acid and evaporated to dryness in a vacuum. The residue is absorptively precipitated in 200 ml of ethanol/50 ml of chloroform at 60° C. The precipitated potassium chloride is filtered off and the filtrate is concentrated by evaporation in a vacuum. The residue is purified on a reversed-phase column (RP-18, washing with water, then elution with tetrahydrofuran/water=2:1). The main fractions are concentrated by evaporation in a vacuum.

reactant | 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane | 28.87 mmol, 10 g | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O | C14H26N4O6
reactant | 2,3-epoxy-1-[4-(2-ethoxycarbonyl)-phenoxy]-propane | 51.96 mmol, 12.99 g | O1C(COC2=CC=C(C=C2)C(=O)OCC)C1 | C12H14O4
reactant | potassium hydroxide | 6N | [OH-].[K+]
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 10-[2-Hydroxy-3-(4-(carboxy)-phenoxy)-propyl]1,4,7-tris(carboxymethyl)-1,4,7,10-tetraazacyclododecane | OC(CN1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O)COC1=CC=C(C=C1)C(=O)O | C24H36N4O10
